US07790724B2
d) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(morpholine-4-sulfonyl)-phenyl]-amide
A solution of 15.0 mg (0.0262 mmol) of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(morpholine-4-sulfonyl)-phenyl]-amide (as prepared in the previous step) in CH2Cl2 (5 mL) was treated with MeOH (1 drop) and TFA (1 mL). The mixture was stirred at RT for 2 h, and the solvents were evaporated in vacuo. Purification of the residue by RP-HPLC (C18) with 10-80% CH3CN in 0.1% TFA/H2O over 30 min afforded 3.4 mg (29%) of the title compound as a white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.62 (d, 1H, J=8.8 Hz), 8.07 (s, 1H), 7.72 (dd, 1H, J=8.8, 2.0 Hz), 7.57 (d, 1H, J=2.0 Hz), 6.01-5.96 (m, 1H), 3.77-3.70 (m, 4H), 3.02-2.95 (m, 4H), 2.40-2.30 (m, 4H), 1.97-1.82 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C21H23N5O4S, 442.2 (M+H), found 441.9.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(morpholine-4-sulfonyl)-phenyl]-amide | 0.0262 mmol, 15.0 mg | C1(=CCCCC1)C1=C(C=CC(=C1)S(=O)(=O)N1CCOCC1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C27H37N5O5SSi
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | MeOH | 1 drop | CO | CH4O
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(morpholine-4-sulfonyl)-phenyl]-amide | 3.4 mg, 29% | C1(=CCCCC1)C1=C(C=CC(=C1)S(=O)(=O)N1CCOCC1)NC(=O)C=1NC=C(N1)C#N | C21H23N5O4S
